US05856543
Preparation of Dichloro(2,4,4,6,6-Pentamethylheptyl)Iso-propylsilane
137.8 g trichloro(2,4,4,6,6-pentamethylheptyl)silane, prepared according to example 7, were dissolved in toluene and heated to 100° C. under argon. By means of a dropping funnel were added 220 ml isopropylmagnesium chloride as a 2 molar solution in THF were added to this solution within 1 h. Subsequently the THF was distilled off by means of a column and the reaction mixture was stirred at 100° C. for 20 h. Filtration was carried out for separating the precipitated solid and the product was isolated by vacuum distillation.

reactant | trichloro(2,4,4,6,6-pentamethylheptyl)silane | 137.8 g | Cl[Si](CC(CC(CC(C)(C)C)(C)C)C)(Cl)Cl | C12H25Cl3Si
reactant | isopropylmagnesium chloride | 220 ml | C(C)(C)[Mg]Cl
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | C1CCOC1 | C4H8O
product | Dichloro(2,4,4,6,6-Pentamethylheptyl)Iso-propylsilane | Cl[Si](C(C)C)(CC(CC(CC(C)(C)C)(C)C)C)Cl | C15H32Cl2Si
